US08445505B2
A mixture of 5-chloro-N4-(5-methyl-1H-pyrazol-3-yl)-N2-(4-(piperidin-4-yl)naphthalene-1-yl)pyrimidine-2,4-diamine (30.8 mg, 0.07 mmol) and 2-(trifluoromethyl)oxirane (39.2 mg, 0.35 mmol) in 1 mL of DMF was stirred at room temperature overnight. The crude mixture was purified by RP-HPLC to give 3-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)naphthalen-1-yl)piperidin-1-yl)-1,1,1-trifluoropropan-2-ol; ESMS m/z 546.2 (M+H+).

reactant | 5-chloro-N4-(5-methyl-1H-pyrazol-3-yl)-N2-(4-(piperidin-4-yl)naphthalene-1-yl)pyrimidine-2,4-diamine | 0.07 mmol, 30.8 mg | ClC=1C(=NC(=NC1)NC1=CC=C(C2=CC=CC=C12)C1CCNCC1)NC1=NNC(=C1)C | C23H24ClN7
reactant | 2-(trifluoromethyl)oxirane | 0.35 mmol, 39.2 mg | FC(C1OC1)(F)F | C3H3F3O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)naphthalen-1-yl)piperidin-1-yl)-1,1,1-trifluoropropan-2-ol | ClC=1C(=NC(=NC1)NC1=CC=C(C2=CC=CC=C12)C1CCN(CC1)CC(C(F)(F)F)O)NC1=NNC(=C1)C | C26H27ClF3N7O
